US08497264B2
A flask was charged with (S)-2-methylpropane-2-sulfinamide (0.764 g, 6.31 mmol) and neopentylzinc (II) iodide (0.5 M in THF, 10.0 mL, 5.00 mmol) was added under nitrogen atmosphere. The mixture was stirred at RT for 15 minutes and ethyl 2-(5-bromo-2-(methoxymethoxy)phenyl)-2-oxoacetate (1.00 g, 3.15 mmol) was added in one portion. The reaction mixture was quenched with saturated aqueous ammonium chloride after 8 h. The reaction was partitioned between EtOAc and water. The organic phase was separated, washed with NH4Cl, water and brine. The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure. The crude material was purified by silica gel chromatography (10-30% EtOAc/hexane) to provide 0.675 g (S)-ethyl 2-(5-bromo-2-(methoxymethoxy)phenyl)-2-(tert-butylsulfinylimino)acetate.

reactant | (S)-2-methylpropane-2-sulfinamide | 6.31 mmol, 0.764 g | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | neopentylzinc (II) iodide | 5.00 mmol, 0.5 M, 10.0 mL | [I-].C(C(C)(C)C)[Zn+]
reactant | ethyl 2-(5-bromo-2-(methoxymethoxy)phenyl)-2-oxoacetate | 3.15 mmol, 1.00 g | BrC=1C=CC(=C(C1)C(C(=O)OCC)=O)OCOC | C12H13BrO5
product | (S)-ethyl 2-(5-bromo-2-(methoxymethoxy)phenyl)-2-(tert-butylsulfinylimino)acetate | 0.675 g | BrC=1C=CC(=C(C1)C(C(=O)OCC)=N[S@@](=O)C(C)(C)C)OCOC | C16H22BrNO5S
